US05324747
A solution of 1.44 g (2.6 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy)phenyl]glycine methyl ester and 15 ml of 1N NaOH in 65 ml of methanol, 10 ml of dioxane and 20 ml of water was stirred reflux for 5 hours. The solvents were removed at reduced pressure and the residue was dissolved in 400 ml of hot water. After cooling to room temperature, 6N HCl was added to acidify and the resultant precipitate was filtered. Purification by chromatography on 40 g of silica gel using 20% methanol-chloroform gave 1.1 g (81% yield, mp 131°-134°) of N-(carboxymethyl)-N-[3-nitro-5-(octadecyloxy)phenyl]glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy)phenyl]glycine methyl ester | 2.6 mmol, 1.44 g | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-])CC(=O)OC)=O | C30H50N2O7
reactant | NaOH | 1N, 15 ml | [OH-].[Na+]
solvent | methanol | 65 ml | CO | CH4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-(carboxymethyl)-N-[3-nitro-5-(octadecyloxy)phenyl]glycine | 1.1 g, 81% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-] | C28H46N2O7
